US06777417B2
Synthesis of 3-[1-{3-[3-(4-hydroxy-piperidin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide
3-[3-(4-Hydroxy-piperidin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (58 mg, 0.2 mmol) was condensed with 5-methylaminosulfonyloxindole (45 mg, 0.2 mmol) following the procedure used in Example 1 to provide (66 mg, 67%yield) of the desired compound.

reactant | 3-[3-(4-Hydroxy-piperidin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.2 mmol, 58 mg | OC1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O | C17H26N2O2
reactant | 5-methylaminosulfonyloxindole | 0.2 mmol, 45 mg | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
product | 3-[1-{3-[3-(4-hydroxy-piperidin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | CNS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCCN1CCC(CC1)O | C26H34N4O4S
